datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([H:17])([H:18])[H:19])[c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])([H:15])[H:16]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:6]([C:7]([C:8]([H:17])([H:18])[H:19])[c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])([H:15])[H:16])[H:3],32.7607
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15]([O:16])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:16][C:15]([C:14]([H:17])([H:18])[H:19])([H:20])[H:21],29.288
[S:0]([H:1])[H:2].[S:3][S:4][H:5]>>[H:1][S:3][S:4][H:5].[S:0][H:2],43.9738
[C:0](=[C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9])[H:8]>>[C:0](=[C:1]([c:2]1[c:3][c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9])([H:8])[H:10],96.909808
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20])[H:7],19.623
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25]([C:26]([C:27]([H:33])([H:34])[H:35])[C:28](=[C:29]([H:37])[H:38])[H:36])[H:32])([H:30])[H:31]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25](=[C:24]([H:30])[H:31])[H:32])([C:27]([H:33])([H:34])[H:35])[C:28](=[C:29]([H:37])[H:38])[H:36])[H:12],71.2954
[C:0](=[C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[C:8](=[C:9]([H:17])[H:18])[H:16])[H:11])[H:10]>>[C:0]1([H:10])=[C:1]([H:11])[c:2]2[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]2[C:8]([H:16])[C:9]1([H:17])[H:18],8.050016
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[S:7]([S:8][H:10])[H:9]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:9])[H:4].[S:7][S:8][H:10],-10.8784
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12],19.6648
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])([H:4])[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19],-3.7656
[C:0]([S:1][S:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([S:1][C:10]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[S:2][C:3]([H:7])([H:8])[H:9],19.6648
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13])=[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1[C:3]([H:12])([H:13])[C:4]([C:5]([H:15])([H:16])[H:17])([H:14])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:11])([H:9])[H:10],130.583
[O:0]([S:1][H:3])[H:2].[O:4]>>[H:3][O:4].[O:0]([S:1])[H:2],0.0
[C:0]([C:1]([O:2][H:8])([S:3][H:9])[H:7])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([O:2][H:8])[H:7])([H:4])([H:5])[H:6].[S:3]([H:9])[C:10]([H:11])([H:12])[H:13],35.4385
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10](=[C:11]([H:13])[H:14])[H:12]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:10](=[C:11]([H:13])[H:14])[H:12])[H:6],-2.5104
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[S:8]([C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])([H:17])[H:18])[H:16]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:17])[H:5].[S:8]([C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])[H:18])[H:16],30.9616
[C:0](=[O:1])([H:2])[H:3].[O:4][O:5]>>[C:0](=[O:1])[H:3].[H:2][O:4][O:5],158.699
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([C:7](=[C:8]([C:9]([C:10]([H:22])([H:23])[H:24])[C:11](=[C:12]([H:26])[H:27])[H:25])[H:21])[H:20])([H:18])[H:19])[H:14])[H:13]>>[C:0](#[C:1][C:2]1([H:14])[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([H:18])([H:19])[C:7]([H:20])=[C:8]([H:21])[C:9]1([C:10]([H:22])([H:23])[H:24])[C:11](=[C:12]([H:26])[H:27])[H:25])[H:13],120.206
[C:0](#[C:1][C:2](=[O:3])[H:5])[H:4].[H:6]>>[C:0](#[C:1][C:2]([O:3][H:6])[H:5])[H:4],22.5936
[C:0]([C:1]=[N:2][H:6])([H:3])([H:4])[H:5].[O:7]>>[C:0](=[C:1]=[N:2][H:6])([H:4])[H:5].[H:3][O:7],0.0
